US06525067B1
Methyl-carbamic acid 1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]-oxazin-5-yl]-propyl ester
A mixture of 1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5-yl]-propan-1-ol (50 mg), methyl isocyanate (0.25 ml), dimethylaminopyridine (37 mg) in dichloromethane (2 ml) was heated at reflux for 1 hr. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give a clear oil (70 mg). The oil was purified by silica gel thin layer chromatography plate using 40% ethyl acetate in hexane as solvent to give 36 mg of the title compound.

reactant | 1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5-yl]-propan-1-ol | 50 mg | CC=1N=C(C2=C(N(COC2)C2=C(C=C(C=C2C)C)C)N1)C(CC)O | C19H25N3O2
reactant | methyl isocyanate | 0.25 ml | CN=C=O | C2H3NO
reactant | dimethylaminopyridine | 37 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl-carbamic acid 1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]-oxazin-5-yl]-propyl ester | 70 mg | CC=1N=C(C2=C(N(COC2)C2=C(C=C(C=C2C)C)C)N1)C(CC)OC(NC)=O | C21H28N4O3
